US04652405
A mixture of 0.033 g. (0.00088 mole) of lithium aluminum hydride, 4 ml. of tetrahydrofuran, and 0.223 g. (0.00026 mole) of [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) was heated at reflux (60° C.) for 1 hr and cooled to 0° C. The mixture was diluted with 12 ml. of ether and quenched with the dropwise addition of 0.07 ml. of water and 0.05 ml. of 10% aqueous sodium hydroxide solution. The mixture was then stirred for 1 hr and filtered. The solids were triturated with ether and filtered. The combined filtrates were evaporated to dryness and chromatographed on 0.06-0.20 mm silica gel to yield [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-ene.

reactant | lithium aluminum hydride | 0.00088 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) | 0.00026 mole | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CC[C@@H](C(C)(C)OC(C)OCC)F)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1 | C48H75FO9S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-ene | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@@H](C(C)(C)OC(C)OCC)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H69FO6
